US05576343
Preparation of Ethyl 3-(5-Cyanobenzo[b]thien-2-yl)-2-[4-[[2-(imino)hexahydropyrimidin-5-yl]oxy]phenyl]propionate Hydrochloride
In 100 ml portion of ethanol was dissolved 1.5 g of ethyl 3-(5-cyanobenzo[b]thien-2-yl)-2-[4-[[2-(p-nitrobenzyloxycarbonylimino)hexahydropyrimidin-5-yl]oxy]phenyl]propionate obtained in the above step c). To the thus prepared solution were added 0.5 g of ammonium chloride and 0.5 g of 10% palladium carbon catalyst (50% wet type). The resulting mixture was subjected to 2 hours of catalytic hydrogenation under normal pressure. After removing the catalyst by filtration and distilling off the solvent, the resulting residue was purified by subjecting it to silica gel column chromatography using a chloroform/ethanol mixture as an elution solvent, thereby obtaining 1.0 g of the title compound.

reactant | ethyl 3-(5-cyanobenzo[b]thien-2-yl)-2-[4-[[2-(p-nitrobenzyloxycarbonylimino)hexahydropyrimidin-5-yl]oxy]phenyl]propionate | 1.5 g | C(#N)C1=CC2=C(SC(=C2)CC(C(=O)OCC)C2=CC=C(C=C2)OC2CNC(NC2)=NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C32H29N5O7S
reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | 0.5 g | [C].[Pd]
product | Ethyl 3-(5-Cyanobenzo[b]thien-2-yl)-2-[4-[[2-(imino)hexahydropyrimidin-5-yl]oxy]phenyl]propionate Hydrochloride | 1.0 g | Cl.C(#N)C1=CC2=C(SC(=C2)CC(C(=O)OCC)C2=CC=C(C=C2)OC2CNC(NC2)=N)C=C1 | InChI=1S/C24H24N4O3S.ClH/c1-2-30-23(29)21(11-20-10-17-9-15(12-25)3-8-22(17)32-20)16-4-6-18(7-5-16)31-19-13-27-24(26)28-14-19;/h3-10,19,21H,2,11,13-14H2,1H3,(H3,26,27,28);1H
